US09161948B2
(R)-methyl(1-phenylethyl)phosphoramidic dichloride
To a cooled (ice/water bath) solution of phosphorus oxychloride (2.83 mL, 30.3 mmol) in DCM (30 mL) was added sequentially, dropwise, and with stirring 2,6-lutidine (7.06 mL, 60.6 mmol) and a DCM solution of (R)-(+)-N,a-dimethylbenzylamine (3.73 g, 27.6 mmol). After 5 minutes, the bath was removed and reaction mixture allowed to warm to ambient temperature. After 1 hour, the reaction solution was washed with a citric acid solution (50 mL×3, 10% w/v aq), dried (MgSO4), filtered through SiO2 and concentrated to provide the title compound (3.80 g) as a white foam. ESI/MS calcd. for 1-(4-nitrophenyl)piperazine derivative C19H25N4O4P 404.2. found m/z=403.1 (M−1).

reactant | phosphorus oxychloride | 30.3 mmol, 2.83 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-lutidine | 60.6 mmol, 7.06 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | (R)-(+)-N,a-dimethylbenzylamine | 27.6 mmol, 3.73 g | CN[C@@H](C1=CC=CC=C1)C | C9H13N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | (R)-methyl(1-phenylethyl)phosphoramidic dichloride | 3.80 g | CN(P(=O)(Cl)Cl)[C@H](C)C1=CC=CC=C1 | C9H12Cl2NOP
